US05580865
4-tert-Butylcarbonyl-7α-methoxy-2-methyl-2-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-3-(1-methyl-1,2,3,4-tetrazol-5-yl)thiomethyl-3-cephem 1,1-dioxide (compound 28)
A solution of 4-tert-butylcarbonyl-7α-methoxy-2-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-3-(1-methyl-1,2,3,4-tetrazol -5-yl)thiomethyl-3-cephem 1,1-dioxide (100 mg), prepared as described in PTC EP 90/02189 in acetonitrile (2 ml) was treated at room temperature with triethylamine (0.040 ml) and methyl iodide (0.060 ml). The reaction mixture was stirred for 30 minutes and the organic solvent completely removed in vacuo. The resulting crude residue was eventually taken up in dichloromethane and purified by flash chromatography affording the title compound as a yellowish solid (40 mg).

reactant | 4-tert-butylcarbonyl-7α-methoxy-2-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-3-(1-methyl-1,2,3,4-tetrazol -5-yl)thiomethyl-3-cephem 1,1-dioxide | 100 mg | C(C)(C)(C)C(=O)C1=C(C(S([C@H]2N1C([C@@H]2OC)=O)(=O)=O)SC2=NN=NN2C)CSC2=NN=NN2C | C17H23N9O5S3
reactant | triethylamine | 0.040 ml | C(C)N(CC)CC | C6H15N
reactant | methyl iodide | 0.060 ml | CI | CH3I
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 4-tert-Butylcarbonyl-7α-methoxy-2-methyl-2-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-3-(1-methyl-1,2,3,4-tetrazol-5-yl)thiomethyl-3-cephem 1,1-dioxide | 40 mg | C(C)(C)(C)C(=O)C1=C(C(S([C@H]2N1C([C@@H]2OC)=O)(=O)=O)(SC2=NN=NN2C)C)CSC2=NN=NN2C | C18H25N9O5S3
